US09212187B2
Synthesis of (E)-3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl)acrylic acid ethyl ester
Trifluoromethane sulfonic acid 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl ester(0.40 g), ethyl acrylate(0.13 g), dichlorobis(triphenylphosphine) Palladium (II) (35 mg),lithium chloride(64 mg), and triethylamine(0.19 ml) were added to DMF(4 ml). The mixture was heated at 180° C. (microwave reactor) for 20 minutes. The reaction liquid was cooled to room temperature, and subjected to celite filtration. The filtrate was condensed under reduced pressure, and the residue was purified by silica gel column chromatography (hexane: ethyl acetate=70:30→30:70). The purified product was condensed under reduced pressure to give the title compound(0.36 g) as a pale yellow solid.

reactant | Trifluoromethane sulfonic acid 1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl ester | 0.40 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OS(=O)(=O)C(F)(F)F | C15H17F3N2O5S
reactant | ethyl acrylate | 0.13 g | C(C=C)(=O)OCC | C5H8O2
reactant | lithium chloride | 64 mg | [Cl-].[Li+]
reactant | triethylamine | 0.19 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | (E)-3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl)acrylic acid ethyl ester | 0.36 g | C(C)OC(\C=C\C1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C19H24N2O4
